US07897619B2
5-(3-Methyl-1H-indazol-5-yl)oxazol-2-amine:
A glass microwave reaction vessel was charged with N-(4-methoxybenzyl)-5-(3-methyl-1H-indazol-5-yl)oxazol-2-amine (196 mg, 587 μmol) and TFA (2.00 mL). The reaction mixture was stirred and heated in a Smith Synthesizer® microwave reactor (Personal Chemistry, Inc., Upssala, Sweden) at 150° C. for 6 minutes. Toluene was added and the solvents were removed in vacuo to give the desired product. The residual material was treated with 2.0 M NH3 in MeOH and 1 N NaOH and the resulting precipitate was filtered to give a yellow solid which was used without further purification.

reactant | N-(4-methoxybenzyl)-5-(3-methyl-1H-indazol-5-yl)oxazol-2-amine | 587 μmol, 196 mg | COC1=CC=C(CNC=2OC(=CN2)C=2C=C3C(=NNC3=CC2)C)C=C1 | C19H18N4O2
reactant | TFA | 2.00 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Methyl-1H-indazol-5-yl)oxazol-2-amine | CC1=NNC2=CC=C(C=C12)C1=CN=C(O1)N | C11H10N4O
